### PR TITLE
[Merged by Bors] - promoting the Grothendieck construction into a functor

### PR DESCRIPTION
**Pull request by sinhp**
This PR adds the functoriality of the Grothendieck construction by providing 
```
map (α : F ⟶ G) : Grothendieck F ⥤ Grothendieck G
```
and then promotes the Grothendieck construction into a functor from the functor category
`C ⥤ Cat` to the over category `Over C` in the category of categories:

```
def functor {E : Cat.{v,u}} : (E ⥤ Cat.{v,u}) ⥤ Over (T:= Cat.{v,u}) E
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 1]
```diff
@@ -149,6 +153,108 @@ def forget : Grothendieck F ⥤ C where
...
+    erw [comp_fiber f g]
+    simp [Functor.comp_map, ← Category.assoc]
+    apply congrFun (congrArg (. ≫ .) ?_) ((α.app Z.base).map g.fiber)
+    slice_rhs 3 3 =>
+      rw [← Functor.comp_map _ _]
+    have H :=  Functor.congr_hom (α.naturality g.base).symm f.fiber
+    erw [H, eqToHom_app, eqToHom_app]
+    simp [Functor.comp_map]
+    erw [eqToHom_app]
+    simp only [Cat.comp_obj, eqToHom_trans, eqToHom_refl, Category.comp_id]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Grothendieck.lean:192]:
```suggestion
  obj X := {
    base := X.base
    fiber := (α.app X.base).obj X.fiber }
  map {X Y} f := {
    base := f.base
    fiber := (eqToHom (α.naturality f.base).symm).app X.fiber ≫ (α.app Y.base).map f.fiber }
  map_id X := by
    simp only [Cat.comp_obj, id_fiber', eqToHom_map]
    congr 1
    rw [eqToHom_app, eqToHom_trans]
  map_comp {X Y Z} f g := by
    dsimp
    congr 1
    erw [comp_fiber f g]
    simp only [← Category.assoc, Functor.map_comp, eqToHom_map]
    apply congrFun (congrArg (. ≫ .) ?_) ((α.app Z.base).map g.fiber)
    have H := Functor.congr_hom (α.naturality g.base).symm f.fiber
    erw [H, eqToHom_app, eqToHom_app]
    simp only [Cat.comp_obj, eqToHom_trans, eqToHom_map, Cat.comp_map, eqToHom_trans_assoc,
      Category.assoc]
    erw [eqToHom_app]
    simp
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 2]
```diff
@@ -149,6 +153,108 @@ def forget : Grothendieck F ⥤ C where
...
+    intro X
+    dsimp
+    simp [eqToHom_map]
+    congr 1
+    · rw [eqToHom_app, eqToHom_trans]
+  map_comp := by
+    intro X Y Z f g
+    dsimp
+    congr 1
+    erw [comp_fiber f g]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Grothendieck.lean:183]: This `erw` suggests that there is a simp lemma missing. Maybe you can add a new version of `comp_fiber` after the `Category` instance phrased in terms of `≫` instead of `comp`?

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 3]
```diff
@@ -149,6 +153,108 @@ def forget : Grothendieck F ⥤ C where
...
+
+theorem map_id_eq : map (𝟙 F) = 𝟙 (Cat.of <| Grothendieck <| F) := by
+  fapply Functor.ext
+  · intro X
+    rfl
+  · intro X Y f
+    simp [map_map]
+    congr
+    erw [NatTrans.id_app]
+    simp
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Grothendieck.lean:216]:
```suggestion
    simp [NatTrans.id_app]
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 4]
```diff
@@ -149,6 +153,108 @@ def forget : Grothendieck F ⥤ C where
...
+def map_comp_iso (α : F ⟶ G) (β : G ⟶ H) : map (α ≫ β) ≅ map α ⋙ map β := eqToIso (map_comp_eq α β)
+
+end
+
+universe v
+
+/-- The Grothendieck construction as a functor from the functor category `E ⥤ Cat` to the
+over category `Over E`. -/
+def functor {E : Cat.{v,u}} : (E ⥤ Cat.{v,u}) ⥤ Over (T:= Cat.{v,u}) E where
+  obj F := Over.mk (X:= E) (Y := Cat.of (Grothendieck F))  (Grothendieck.forget F)
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Grothendieck.lean:248]:
```suggestion
def functor {E : Cat.{v,u}} : (E ⥤ Cat.{v,u}) ⥤ Over (T := Cat.{v,u}) E where
  obj F := Over.mk (X := E) (Y := Cat.of (Grothendieck F)) (Grothendieck.forget F)
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 5]
```diff
@@ -149,6 +153,108 @@ def forget : Grothendieck F ⥤ C where
...
+  map {F G} α := Over.homMk (X:= E) (Grothendieck.map α) Grothendieck.functor_comp_forget
+  map_id F := by
+    ext
+    exact Grothendieck.map_id_eq (F:= F)
+  map_comp := by
+    intro F G H α β
+    simp [Grothendieck.map_comp_eq α β]
+    rfl
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Grothendieck.lean:256]:
```suggestion
  map_comp α β := by
    simp [Grothendieck.map_comp_eq α β]
    rfl
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 6]
```diff
@@ -149,6 +153,108 @@ def forget : Grothendieck F ⥤ C where
...
+universe v
+
+/-- The Grothendieck construction as a functor from the functor category `E ⥤ Cat` to the
+over category `Over E`. -/
+def functor {E : Cat.{v,u}} : (E ⥤ Cat.{v,u}) ⥤ Over (T:= Cat.{v,u}) E where
+  obj F := Over.mk (X:= E) (Y := Cat.of (Grothendieck F))  (Grothendieck.forget F)
+  map {F G} α := Over.homMk (X:= E) (Grothendieck.map α) Grothendieck.functor_comp_forget
+  map_id F := by
+    ext
+    exact Grothendieck.map_id_eq (F:= F)
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Grothendieck.lean:252]: Would `map_id_eq` be a bad simp lemma? If it were a simp lemma then automation would take care of this (simliar for `map_comp_eq`)

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 7]
```diff
@@ -149,6 +153,108 @@ def forget : Grothendieck F ⥤ C where
...
+    simp [map_map]
+    fapply Grothendieck.ext
+    · rfl
+    · simp
+      erw [eqToHom_app, eqToHom_app, eqToHom_app, eqToHom_map]
+      simp [eqToHom_trans]
+
+/-- Making the equality of functors into an isomorphism. Note: we should avoid equality of functors
+if possible, and we should prefer `map_comp_iso` to `map_comp_eq` whenever we can. -/
+def map_comp_iso (α : F ⟶ G) (β : G ⟶ H) : map (α ≫ β) ≅ map α ⋙ map β := eqToIso (map_comp_eq α β)
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Grothendieck.lean:239]:
```suggestion
def mapCompIso (α : F ⟶ G) (β : G ⟶ H) : map (α ≫ β) ≅ map α ⋙ map β := eqToIso (map_comp_eq α β)
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 8]
```diff
@@ -149,6 +153,108 @@ def forget : Grothendieck F ⥤ C where
...
+    rfl
+  · intro X Y f
+    simp [map_map]
+    congr
+    erw [NatTrans.id_app]
+    simp
+
+/-- Making the equality of functors into an isomorphism. Note: we should avoid equality of functors
+if possible, and we should prefer `map_id_iso` to `map_id_eq` whenever we can. -/
+def map_id_iso : map (𝟙 F) ≅ 𝟙 (Cat.of <| Grothendieck <| F) := eqToIso map_id_eq
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Grothendieck.lean:220]:
```suggestion
def mapIdIso : map (𝟙 F) ≅ 𝟙 (Cat.of <| Grothendieck <| F) := eqToIso map_id_eq
```

**Comment by callesonne** [comment]
In case you are interested, I have the grothendieck construction in terms of pseudofunctors on the branch [fiberedcategories_pseudofunctor](https://github.com/leanprover-community/mathlib4/tree/fiberedcategories_pseudofunctor) (and I also show its a fibered category). It will take a while to get PRd though, as it depends on a bunch of open fibered category PRs, and I also need to add some API around pseudofunctors.

**Comment by sinhp** [comment]
> In case you are interested, I have the grothendieck construction in terms of pseudofunctors on the branch [fiberedcategories_pseudofunctor](https://github.com/leanprover-community/mathlib4/tree/fiberedcategories_pseudofunctor) (and I also show its a fibered category). It will take a while to get PRd though, as it depends on a bunch of open fibered category PRs, and I also need to add some API around pseudofunctors.

That is interesting to know! However, for another project, I need the strict functoriality of Grothendieck construction for functors.  Sure, I'd be interested in working on the pseudo-functoriality as well once the PRs gets through.

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 6 above)
Comment (sinhp) [reply Mathlib/CategoryTheory/Grothendieck.lean:245]: `map_id_eq` and `map_comp_eq` are equalities of functors. I thought we are discouraged from writing `@simp` lemmas for equalities of functors due to their bad rewriting behavior.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 9]
```diff
@@ -149,6 +153,108 @@ def forget : Grothendieck F ⥤ C where
...
+  rfl
+
+theorem map_id_eq : map (𝟙 F) = 𝟙 (Cat.of <| Grothendieck <| F) := by
+  fapply Functor.ext
+  · intro X
+    rfl
+  · intro X Y f
+    simp [map_map]
+    congr
+    erw [NatTrans.id_app]
```
Comment (sinhp) [inline Mathlib/CategoryTheory/Grothendieck.lean]: @dagurtomas: Actually, changing `erw` to `simp` breaks the proof.

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 2 above)
Comment (sinhp) [reply Mathlib/CategoryTheory/Grothendieck.lean:178]: sounds a good idea!

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 9 above)
Comment (sinhp) [reply Mathlib/CategoryTheory/Grothendieck.lean:216]: Is there a way to fix it?

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 2 above)
Comment (sinhp) [reply Mathlib/CategoryTheory/Grothendieck.lean]: just added a new lemma `comp_fiber'` similar to already existing `id_fiber'` and now we use `simp [comp_fiber' f g]` instead of `erw [comp_fiber f g]`.

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 6 above)
Comment (sinhp) [reply Mathlib/CategoryTheory/Grothendieck.lean:253]: See for instance in the comment just above docs#CategoryTheory.Functor.comp_id.

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 9 above)
Comment (sinhp) [reply Mathlib/CategoryTheory/Grothendieck.lean:216]: It seems `rw [NatTrans.id_app]; simp` also works, but `simp [NatTrans.id_app]` does not.

File: Mathlib/CategoryTheory/Grothendieck.lean
Comment (sinhp) [inline Mathlib/CategoryTheory/Grothendieck.lean:1]: It seems `simp [NatTrans.id_app]` does not work! we can do `rw[NatTrans.id_app]; simp` if that is better?

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 9 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Grothendieck.lean:216]: Ok, `rw` is better than `erw`, but I don't know why `simp` doesn't just close the goal

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 6 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Grothendieck.lean:253]: I see, probably best not to make them simp lemmas then

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 9 above)
Comment (sinhp) [reply Mathlib/CategoryTheory/Grothendieck.lean]: yeah, I could not make it work with any of the  `simp` or `simp only` or `simp [-x, y, ...]`. I don't understand what is going on.

**Comment by callesonne** [comment]
> > In case you are interested, I have the grothendieck construction in terms of pseudofunctors on the branch [fiberedcategories_pseudofunctor](https://github.com/leanprover-community/mathlib4/tree/fiberedcategories_pseudofunctor) (and I also show its a fibered category). It will take a while to get PRd though, as it depends on a bunch of open fibered category PRs, and I also need to add some API around pseudofunctors.
> 
> That is interesting to know! However, for another project, I need the strict functoriality of Grothendieck construction for functors. Sure, it'd be great to have pseudo-functoriality as well, but that will be a separate case I think, since that will be a statement about 2-functors. The current Grothendieck construction is about 1-functors to `Cat` and this is the version I need for my project.

Okay good! Just wanted to make sure that we didn't overlap/redo work, since we have been working on somewhat similar things!

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 10]
```diff
@@ -149,6 +161,100 @@ def forget : Grothendieck F ⥤ C where
...
+variable {G : C ⥤ Cat}
+
+/-- The Grothendieck construction is functorial: a natural transformation `α : F ⟶ G` induces
+a functor `Grothendieck.map : Grothendieck F ⥤ Grothendieck G`.
+-/
+@[simps!]
+def map (α : F ⟶ G) : Grothendieck F ⥤ Grothendieck G where
+  obj X := {
+    base := X.base
+    fiber := (α.app X.base).obj X.fiber }
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Grothendieck.lean:175]:
```suggestion
  obj X :=
  { base := X.base
    fiber := (α.app X.base).obj X.fiber }
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 11]
```diff
@@ -149,6 +161,100 @@ def forget : Grothendieck F ⥤ C where
...
+  map {X Y} f := {
+    base := f.base
+    fiber := (eqToHom (α.naturality f.base).symm).app X.fiber ≫ (α.app Y.base).map f.fiber }
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Grothendieck.lean:178]:
```suggestion
  map {X Y} f :=
  { base := f.base
    fiber := (eqToHom (α.naturality f.base).symm).app X.fiber ≫ (α.app Y.base).map f.fiber }
```

**Review by erdOne — APPROVED** [review]
LGTM.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 12]
```diff
@@ -149,6 +161,100 @@ def forget : Grothendieck F ⥤ C where
...
+theorem map_comp_eq (α : F ⟶ G) (β : G ⟶ H) :
+    map (α ≫ β) = map α ⋙ map β := by
+  fapply Functor.ext
+  · intro X
+    rfl
+  · intro X Y f
+    simp [map_map]
+    fapply Grothendieck.ext
+    · rfl
+    · simp
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Grothendieck.lean:234]: Missed these non-terminal simps. please squeeze them.

Comment (sinhp) [reply Mathlib/CategoryTheory/Grothendieck.lean]: replaces `simp` proofs by `simp only [...]` and minimized the arguments of `simp only`.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 13]
```diff
@@ -149,6 +161,101 @@ def forget : Grothendieck F ⥤ C where
...
+
+theorem map_map {α : F ⟶ G} {X Y : Grothendieck F} {f : X ⟶ Y} :
+    (Grothendieck.map α).map f =
+    ⟨f.base, (eqToHom (α.naturality f.base).symm).app X.fiber ≫ (α.app Y.base).map f.fiber⟩ := by
+  rfl
+
+/-- The functor `Grothendieck.map α : Grothendieck F ⥤ Grothendieck G` lies over `C`.-/
+theorem functor_comp_forget {α : F ⟶ G} :
+    Grothendieck.map α ⋙ Grothendieck.forget G = Grothendieck.forget F := by
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Grothendieck.lean:207]:
```suggestion
    Grothendieck.map α ⋙ Grothendieck.forget G = Grothendieck.forget F := rfl
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 14]
```diff
@@ -149,6 +161,101 @@ def forget : Grothendieck F ⥤ C where
...
+    simp
+
+theorem map_obj {α : F ⟶ G} (X : Grothendieck F) :
+    (Grothendieck.map α).obj X = ⟨X.base, (α.app X.base).obj X.fiber⟩ := by
+  rfl
+
+theorem map_map {α : F ⟶ G} {X Y : Grothendieck F} {f : X ⟶ Y} :
+    (Grothendieck.map α).map f =
+    ⟨f.base, (eqToHom (α.naturality f.base).symm).app X.fiber ≫ (α.app Y.base).map f.fiber⟩ := by
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Grothendieck.lean:202]:
```suggestion
    ⟨f.base, (eqToHom (α.naturality f.base).symm).app X.fiber ≫ (α.app Y.base).map f.fiber⟩ := rfl
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 15]
```diff
@@ -149,6 +161,101 @@ def forget : Grothendieck F ⥤ C where
...
+    have H := Functor.congr_hom (α.naturality g.base).symm f.fiber
+    erw [H, eqToHom_app, eqToHom_app]
+    simp only [Cat.comp_obj, eqToHom_trans, eqToHom_map, Cat.comp_map, eqToHom_trans_assoc,
+      Category.assoc]
+    erw [eqToHom_app]
+    simp
+
+theorem map_obj {α : F ⟶ G} (X : Grothendieck F) :
+    (Grothendieck.map α).obj X = ⟨X.base, (α.app X.base).obj X.fiber⟩ := by
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Grothendieck.lean:197]:
```suggestion
    (Grothendieck.map α).obj X = ⟨X.base, (α.app X.base).obj X.fiber⟩ := rfl
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 16]
```diff
@@ -149,6 +161,101 @@ def forget : Grothendieck F ⥤ C where
...
 end
 
+section
+
+variable {G : C ⥤ Cat}
+
+/-- The Grothendieck construction is functorial: a natural transformation `α : F ⟶ G` induces
+a functor `Grothendieck.map : Grothendieck F ⥤ Grothendieck G`.
+-/
+@[simps!]
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Grothendieck.lean:171]: This `def` seems very slow, can you try to make it faster? Thanks!

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Grothendieck.lean:171]: I agree this is a bit slow, it might help to split it up into separate defs `mapObj` and `mapMap`, and lemmas `map_map_id` and `map_map_comp`.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 17]
```diff
@@ -149,6 +161,101 @@ def forget : Grothendieck F ⥤ C where
...
+  map_id X := by
+    simp only [Cat.comp_obj, id_fiber', eqToHom_map]
+    congr 1
+    rw [eqToHom_app, eqToHom_trans]
+  map_comp {X Y Z} f g := by
+    dsimp
+    congr 1
+    simp only [comp_fiber' f g, ← Category.assoc, Functor.map_comp, eqToHom_map]
+    apply congrFun (congrArg (. ≫ .) ?_) ((α.app Z.base).map g.fiber)
+    have H := Functor.congr_hom (α.naturality g.base).symm f.fiber
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Grothendieck.lean:188]:
```suggestion
    apply congrFun (congrArg (· ≫ ·) ?_) ((α.app Z.base).map g.fiber)
    have H := Functor.congr_hom (α.naturality g.base).symm f.fiber
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 18]
```diff
@@ -149,6 +161,101 @@ def forget : Grothendieck F ⥤ C where
...
+    erw [H, eqToHom_app, eqToHom_app]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Grothendieck.lean:189]: It's this `erw` that's making the proof slow. Maybe there are some `simp` lemmas missing?

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 16 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Grothendieck.lean:171]: It's only the `map_comp` field that's slow, it seems

**Review by dagurtomas — COMMENTED** [review]
Other than the slowness in `map`, this looks good to me.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 19]
```diff
@@ -149,6 +161,101 @@ def forget : Grothendieck F ⥤ C where
...
+    simp only [Cat.comp_obj, eqToHom_trans, eqToHom_map, Cat.comp_map, eqToHom_trans_assoc,
+      Category.assoc]
+    erw [eqToHom_app]
+    simp
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Grothendieck.lean:193]:
```suggestion
    dsimp
    congr 1
    simp only [comp_fiber' f g, ← Category.assoc, Functor.map_comp, eqToHom_map]
    congr 1
    simp only [Cat.comp_obj, eqToHom_trans, eqToHom_map, Cat.comp_map, eqToHom_trans_assoc,
      Category.assoc]
    rw [eqToHom_app, eqToHom_app, eqToHom_app]
    erw [Functor.congr_hom (α.naturality g.base).symm f.fiber]
    simp
```

This seems a bit faster

**Review by dagurtomas — COMMENTED** [review]
Found a slightly faster proof

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 19 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Grothendieck.lean:193]: It's basically the same proof, just moving the slow `erw` further back

**Comment by riccardobrasca** [comment]
Still not the fastest proof but totally fine, thanks!

bors merge
